US04520193
Phosphorus trichloride (0.81 cc) is added, in the course of 1 minute, to a solution of the syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide (4.3 g) and dimethylacetamide (1.88 cc) in methylene chloride (43 cc), cooled to -8° C., and the mixture is left for 1 hour at -8° C., whilst stirring. The mixture is then poured into a saturated solution of sodium bicarbonate (20 cc) and ethyl acetate (100 cc). The organic phase is washed with water (30 cc), dried over magnesium sulphate and evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. The residue is dissolved in ethyl acetate (15 cc) and the solution is filtered on Merck silica gel (0.06-0.2) (13 g) and washed through with ethyl acetate (20 cc). The filtrate is evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. This yields the syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene (3.6 g) in the form of a beige solid.

reactant | Phosphorus trichloride | 0.81 cc | P(Cl)(Cl)Cl | Cl3P
reactant | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide | 4.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2S(CC1CC(=O)C1=CC=CC=C1)=O)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C53H43N5O7S2
reactant | dimethylacetamide | 1.88 cc | CC(=O)N(C)C | C4H9NO
reactant | sodium bicarbonate | 20 cc | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 43 cc | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 cc | C(C)(=O)OCC | C4H8O2
product | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-phenacyl-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 3.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1CC(=O)C1=CC=CC=C1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C53H43N5O6S2
